US06211199B1
23.1 Synthesis of 1-(3,4,5-trimethoxybenzyl)-3-(4-fluorophenylmethyl)-3-(3-t-butyldimethylsilyloxypropyl)-2-oxopyrrolidine
Prepare by the method of Example 17.3 using 1-(3,4,5-trimethoxybenzyl)-3-(4-fluorophenylmethyl)-2-oxopyrrolidine and 3-t-butyldimethylsilyloxypropyl bromide to give the title compound: Rf=0.52 (silica gel, 1/4 ethyl acetate/hexane).

reactant | 1-(3,4,5-trimethoxybenzyl)-3-(4-fluorophenylmethyl)-2-oxopyrrolidine | COC=1C=C(CN2C(C(CC2)CC2=CC=C(C=C2)F)=O)C=C(C1OC)OC | C21H24FNO4
reactant | 3-t-butyldimethylsilyloxypropyl bromide | [Si](C)(C)(C(C)(C)C)OCCCBr | C9H21BrOSi
product | 1-(3,4,5-trimethoxybenzyl)-3-(4-fluorophenylmethyl)-3-(3-t-butyldimethylsilyloxypropyl)-2-oxopyrrolidine | COC=1C=C(CN2C(C(CC2)(CCCO[Si](C)(C)C(C)(C)C)CC2=CC=C(C=C2)F)=O)C=C(C1OC)OC | C30H44FNO5Si
